* FQP3P20 200V P-CHANNEL DMOSFET ELECTRICAL PARAMETERS
*------------------------------------------------------------------------------------
.SUBCKT  FQP3P20   2  1  3
Rg      10   1    1
M1      2    1    3    3    DMOS    L=1u   W=1u
.MODEL DMOS PMOS (VTO={-4.95*{-0.00095*TEMP+1.02375}} KP={1.15*{-0.00075*TEMP+1.01875}}
+ THETA=0.04  VMAX=2.7E5  LEVEL=3) 
Cgs     1    3    182.5p
Rd      20   4    1350m      TC=0.01
Dds     4    3    DDS
.MODEL     DDS    D(BV={200*{0.0008*TEMP+0.98}}   M=0.5    CJO=37.5p   VJ=0.8)
Dbody   20   3    DBODY
.MODEL DBODY      D(IS=1.2E-14   N=1.07   RS=78.0m   EG=1.54   TT=100n)
Ra      4    2    412m      TC=0.01
Rs      3    5    41.2m       
Ls      5   30    1.97n
M2      1    8    6    6   INTER
E2      8    6    4    1    2
.MODEL   INTER    PMOS(VTO=0  KP=10   LEVEL=1)
Cgdmax  7    4    266p
Rcgd    7    4    10meg
Dgd     4    6    DGD
Rdgd    4    6    10meg
.MODEL     DGD    D(M=0.7  CJO=266p   VJ=0.55)
M3      7    9    1    1   INTER
E3      9    1    4    1   -2
.ENDS FQP3P20 
