.SUBCKT BS250P 3 4 5
   *                D G S
   M1 3 2 5 5 MBS250
   RG 4 2 160
   RL 3 5 1.2E8
   C1 2 5 47E-12
   C2 3 2 10E-12 
   D1 3 5 DBS250
   *
   .MODEL MBS250 PMOS VTO=-3.193 RS=2.041 RD=0.697 IS=1E-15 KP=0.277
   +CBD=105E-12 PB=1 LAMBDA=1.2E-2
   .MODEL DBS250 D IS=2E-13 RS=0.309
   .ENDS BS250P
