* PSpice Model Editor - Version 9.2

*$
**************** Power Discrete MOSFET Electrical Circuit Model ******************
* Product Name: FQA36P15
* 150V P-Channel MOSFET and TO-3P
*---------------------------------------------------------------------------------
.SUBCKT FQA36P15 20 10 30
Rg 10 1  0.04
M1 2 1 3 3 DMOS  L=1u  W=1u
.MODEL DMOS PMOS (VTO={-3.6*{-0.00088*TEMP+1.022}} KP={19.5*{-0.00028*TEMP+1.007}}
+ THETA=0.0424  VMAX=1.5E5   LEVEL=3)
Cgs 1 3 2440p
Rd 20 4 0.06  TC=0.0085
Dds 4 3 DDS
.MODEL DDS D(BV={150*{0.00075*TEMP+0.98125}}  M=0.48   CJO=600p   VJ=0.61)
Dbody 20 3 DBODY
.MODEL DBODY D(IS=8.5E-12  N=1.0  RS=0.013  EG=1.19  TT=198n)
Ra 4 2  0.0152  TC=0.0085
Rs 3 5  0.0012
Ls 5 30 1n
M2 1 8 6 6 INTER
E2 8 6 4 1 2
.MODEL INTER PMOS (VTO=0 KP=10 LEVEL=1)
Cgdmax 7 4 3300p
Rcgd 7 4 1E7
Dgd  4 6 DGD
Rdgd 4 6 1E7
.MODEL DGD D(M=0.62 CJO=3300p VJ=0.52)
M3 7 9 1 1 INTER
E3 9 1 4 1 -2
.ENDS
*--------------------------------------------------------------------------------
* Creation : Nov.-24-2003 
* Fairchild Semiconductor
*$
