*ZETEX ZVP2106A Spice Model v1.1 Last Revised 3/5/00
    *
    .SUBCKT ZVP2106A 3 4 5
    *                D G S
    M1 3 2 5 5 MP2106
    RG 4 2 160
    RL 3 5 1.2E8
    C1 2 5 47E-12
    C2 3 2 10E-12 
    D1 3 5 DP2106
    *
    .MODEL MP2106 PMOS VTO=-3.193 RS=2.041 RD=0.697 IS=1E-15 KP=0.277
    +CBD=105E-12 PB=1 LAMBDA=1.2E-2
    .MODEL DP2106 D IS=2E-13 RS=0.309
    .ENDS ZVP2106A
    *
    *$
    *