*Feb 16, 2010
*Doc. ID: 90187, Rev. A
*File Name: part IRF9610_SIHF610
*This document is intended as a SPICE modeling guideline and does not
*constitute a commercial product datasheet.  Designers should refer to the
*appropriate data sheet of the same number for guaranteed specification
*limits.
.subckt IRF9610 D G S
.model mosfet PMOS( LEVEL=7 VTO=-3.667 RS=0.47274 KP=0.813 RD=1.733 TC1RD=0.011 RG=10 IS=1e-36
+ CGDMAX=4.05E-10 CGDMIN=3.00E-12 XG2CGD=0.25 XG1CGD=0.1 CBD=3.06E-11 VTCGD=0)
.model diode D( IS=6.17e-61 RS=0.267 TT=1.762e-06)
M1 D G S S mosfet
D1 D S Diode
Cgs G S 1.53E-10
.ends IRF9610