*ZETEX ZVN4206AV Spice Model v1.0 Last Revised 30/01/02
    *
    .SUBCKT ZVN4206AV 3 4 5
    *------connections-------D-G-S
    M1 6 2 8 8 MOSMOD
    M2 6 2 8 8 MOSMODS
    RG 4 2 30
    RD 3 6 0.05
    RS 8 5 0.5 
    RL 3 5 6E6
    C1 2 8 80E-12
    C2 2 3 25E-12
    C3 15 14 75E-12 
    C4 16 8 40E-12
    D1 5 3 DMOD
    S1 2 15 14 13 SMOD1
    S2 13 15 13 14 SMOD1
    S3 16 13 13 8 SMOD2
    S4 16 2 8 13 SMOD2
    Egs2 13 8 2 8 1
    Eds1 14 8 3 8 1
    .MODEL MOSMOD NMOS VTO=2.4 IS=1E-15 KP=0.84 CBD=195E-12 PB=1
    .MODEL MOSMODS NMOS VTO=1.8 IS=1E-15 KP=0.084 PB=1
    .MODEL DMOD D IS=6E-13 RS=.13 N=1.01
    .MODEL SMOD1 VSWITCH RON=.1 ROFF=1E5  VON=1.5 VOFF=4.5
    .MODEL SMOD2 VSWITCH RON=.1 ROFF=1E5  VON=-5 VOFF=-6
    .ENDS  ZVN4206AV
    *
    *$
    *