*ZETEX ZVP3306A Spice Model v1.1 Last Revised 3/5/00
    *
    .SUBCKT ZVP3306A 3 4 5
    *                D G S
    M1 3 2 5 5 P3306M
    RG 4 2 252
    RL 3 5 1.2E8
    C1 2 5 28E-12
    C2 3 2 3E-12
    D1 3 5 P3306D
    *
    .MODEL P3306M PMOS VTO=-2.875 RS=5.227 RD=7.524 IS=1E-15 KP=.145
    +CBD=35E-12 PB=1 LAMBDA=6.67E-3
    .MODEL P3306D D IS=5E-12 RS=.768
    .ENDS ZVP3306A
    *
    *$
    *