*model J500	anode
*		| cathode
*		| |
.subckt J500	1 2
  j1 1 2 2 jx
  .model   jx	NJF(Beta=82u Betatce=-.5 Rd=1 Rs=0 Lambda=520.8u Vto=-1.705
+		Vtotc=-2.5m N=2 Xti=3 Cgd=2p Is=10f M=.5 Pb=1 Fc=.5 Af=1)
*		Siliconix	pid=NCL		case=TO92mod
*		88-07-22 bam	POVmax=50
*		88-12-16 pwt
.ends

*model J501	anode
*		| cathode
*		| |
.subckt J501	1 2
  j1 1 2 2 jx
  .model   jx	NJF(Beta=93u Betatce=-.5 Rd=1 Rs=0 Lambda=506.1u Vto=-1.878
+		Vtotc=-2.5m N=2 Xti=3 Cgd=2p Is=10f M=.5 Pb=1 Fc=.5 Af=1)
*		Siliconix	pid=NCL		case=TO92mod
*		88-07-22 bam	POVmax=50
*		88-12-16 pwt
.ends
			
*model J502	anode
*		| cathode
*		| |
.subckt J502	1 2
  j1 1 2 2 jx
  .model   jx	NJF(Beta=79u Betatce=-.5 Rd=1 Rs=0 Lambda=527.9u Vto=-2.33
+		Vtotc=-2.5m N=2 Xti=3 Cgd=2p Is=10f M=.5 Pb=1 Fc=.5 Af=1)
*		Siliconix	pid=NCL		case=TO92mod
*		88-07-22 bam	POVmax=50
*		88-12-16 pwt
.ends

*model J503	anode
*		| cathode
*		| |
.subckt J503	1 2
  j1 1 2 2 jx
  .model   jx	NJF(Beta=87.5u Betatce=-.5 Rd=1 Rs=0 Lambda=525u Vto=-2.527
+		Vtotc=-2.5m N=2 Xti=3 Cgd=2p Is=10f M=.5 Pb=1 Fc=.5 Af=1)
*		Siliconix	pid=NCL		case=TO92mod
*		88-07-22 bam	POVmax=50
*		88-12-16 pwt
.ends

*model J504	anode
*		| cathode
*		| |
.subckt J504	1 2
  j1 1 2 2 jx
  .model   jx	NJF(Beta=87u Betatce=-.5 Rd=1 Rs=0 Lambda=533.3u Vto=-2.931
+		Vtotc=-2.5m N=2 Xti=3 Cgd=2p Is=10f M=.5 Pb=1 Fc=.5 Af=1)
*		Siliconix	pid=NCL		case=TO92mod
*		88-07-22 bam	POVmax=50
*		88-12-16 pwt
.ends

*model J505	anode
*		| cathode
*		| |
.subckt J505	1 2
  j1 1 2 2 jx
  .model   jx	NJF(Beta=100u Betatce=-.5 Rd=1 Rs=0 Lambda=526u Vto=-3.158
+		Vtotc=-2.5m N=2 Xti=3 Cgd=2p Is=10f M=.5 Pb=1 Fc=.5 Af=1)
*		Siliconix	pid=NCL		case=TO92mod
*		88-07-22 bam	POVmax=50
*		88-12-16 pwt
.ends

*model J506	anode
*		| cathode
*		| |
.subckt J506	1 2
  j1 1 2 2 jx
  .model   jx	NJF(Beta=96u Betatce=-.5 Rd=1 Rs=0 Lambda=510u Vto=-3.81
+		Vtotc=-2.5m N=2 Xti=3 Cgd=2p Is=10f M=.5 Pb=1 Fc=.5 Af=1)
*		Siliconix	pid=NCL		case=TO92mod
*		88-07-22 bam	POVmax=50
*		88-12-16 pwt
.ends

*model J507	anode
*		| cathode
*		| |
.subckt J507	1 2
  j1 1 2 2 jx
  .model   jx	NJF(Beta=100u Betatce=-.5 Rd=1 Rs=0 Lambda=555.6u Vto=-4.24
+		Vtotc=-2.5m N=2 Xti=3 Cgd=2p Is=10f M=.5 Pb=1 Fc=.5 Af=1)
*		Siliconix	pid=NCL		case=TO92mod
*		88-07-22 bam	POVmax=50
*		88-12-16 pwt
.ends

*model J508	anode
*		| cathode
*		| |
.subckt J508	1 2
  j1 1 2 2 jx
  .model   jx	NJF(Beta=108u Betatce=-.5 Rd=1 Rs=0 Lambda=595.4u Vto=-4.705
+		Vtotc=-2.5m N=2 Xti=3 Cgd=2p Is=10f M=.5 Pb=1 Fc=.5 Af=1)
*		Siliconix	pid=NCL		case=TO92mod
*		88-07-22 bam	POVmax=50
*		88-12-16 pwt
.ends

*model J509	anode
*		| cathode
*		| |
.subckt J509	1 2
  j1 1 2 2 jx
  .model   jx	NJF(Beta=106.5u Betatce=-.5 Rd=1 Rs=0 Lambda=555.7u Vto=-5.3
+		Vtotc=-2.5m N=2 Xti=3 Cgd=2p Is=10f M=.5 Pb=1 Fc=.5 Af=1)
*		Siliconix	pid=NCL		case=TO92mod
*		88-07-22 bam	POVmax=50
*		88-12-16 pwt
.ends

*model J510	anode
*		| cathode
*		| |
.subckt J510	1 2
  j1 1 2 2 jx
  .model   jx	NJF(Beta=104.5u Betatce=-.5 Rd=1 Rs=0 Lambda=555.6u Vto=-5.859
+		Vtotc=-2.5m N=2 Xti=3 Cgd=2p Is=10f M=.5 Pb=1 Fc=.5 Af=1)
*		Siliconix	pid=NCL		case=TO92mod
*		88-07-22 bam	POVmax=50
*		88-12-16 pwt
.ends

*model J511	anode
*		| cathode
*		| |
.subckt J511	1 2
  j1 1 2 2 jx
  .model   jx	NJF(Beta=120u Betatce=-.5 Rd=1 Rs=0 Lambda=708.5u Vto=-6.246
+		Vtotc=-2.5m N=2 Xti=3 Cgd=2p Is=10f M=.5 Pb=1 Fc=.5 Af=1)
*		Siliconix	pid=NCL		case=TO92mod
*		88-07-22 bam	POVmax=50
*		88-12-16 pwt
.ends